### ISSUE TITLE
conv: "cannot select argument" with funlike coercions

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#5871]
### Description

Function coercions are almost impossible to navigate in `conv` mode.

### Context

In [this Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/.E2.9C.94.20conv.2Fenter.20into.20argument.20of.20a.20function.3F/near/402801394), there's an example of an expression using a function coercion where it's impossible to access the argument to that coerced function using `conv` mode. Issue #2942 was meant to address this, but it wasn't the root issue, which is instead that the congr lemma generated in this case is too strict.

### Steps to Reproduce

```lean
class DFunLike (F : Sort _) (α : outParam (Sort _)) (β : outParam <| α → Sort _) where
  /-- The coercion from `F` to a function. -/
  coe : F → ∀ a : α, β a

structure MyFun (α β : Type) where
  toFun : α → β

instance : DFunLike (MyFun α β) α (fun _ => β) where
  coe f := f.toFun

example (a b : Nat) (h : a = b) (f : MyFun Nat Int) : DFunLike.coe f a = DFunLike.coe f b := by
  conv =>
    enter [1, 2] -- cannot select argument
```

**Expected behavior:** We select the `a` argument of the LHS.

**Actual behavior:** "cannot select argument"

### Additional information

It's possible to navigate to the argument by breaking up the application in some way:
```lean
example (a b : Nat) (h : a = b) (f : MyFun Nat Int) : DFunLike.coe f a = DFunLike.coe f b := by
  conv =>
    enter [1]
    change (fun a => DFunLike.coe f a) a
    enter [1]
    rw [h]
```

### Versions

Lean 4.12.0, commit c57d054b876c7ef4d54b59344bc4698d927a603f
Target: arm64-apple-darwin24.0.0 macOS

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
